US07453010B2
6.1: Ethyl trans-N-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoyl)-L-phenylalaninate
A solution of 0.3 g (0.45 mmol) of trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoic acid (preparation 3), of 0.78 g (0.91 mmol) of 1-hydroxybenzotriazole, of 0.175 g (0.91 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, of 0.19 ml of triethylamine and of 0.165 g (0.91 mmol) of L-phenylalanine ethyl ester hydrochloride in 5 ml of dichloromethane is stirred for 24 h. The solvents are evaporated under reduced pressure. Dichloromethane and water are added and the organic phase is washed three times with water. The organic phases are dried over magnesium sulfate and concentrated under reduced pressure. The product is obtained in the form of a white solid (0.350 g, 92%) after purification on silica gel (eluent: dichloromethane/methanol 100/00 to 90/10 gradient in 35 min). [M+H+]=835

reactant | trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoic acid | 0.45 mmol, 0.3 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C37H42N2O7S
reactant | 1-hydroxybenzotriazole | 0.91 mmol, 0.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.91 mmol, 0.175 g | Cl.C(C)N=C=NCCCN(C)C
reactant | L-phenylalanine ethyl ester hydrochloride | 0.91 mmol, 0.165 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
product | Ethyl trans-N-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoyl)-L-phenylalaninate | 0.350 g, 92% | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C48H55N3O8S
